2178-01-26 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-1-25**] 08:00 PM
   [**2178-1-25**] Events:
   - Pt had CTA to rule out PE, prelim read shows
   - Pt had repeat ABG after arriving which showed much improved PCO2 at
   47.  Pt remained intubated overnight on AC, however after removing
   sedation the patient was tolerating PSV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2178-1-25**] 08:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-26**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 91 (69 - 107) bpm
   BP: 135/50(70) {92/45(56) - 155/91(99)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    138 mL
                                                                    225 mL
   PO:
             TF:
   IVF:
                                                                    138 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    105 mL
                                                                    270 mL
   Urine:
                                                                    100 mL
                                                                    270 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                    -45 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 259 (259 - 302) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 13 cmH2O
   Plateau: 19 cmH2O
   SpO2: 93%
   ABG: 7.39/47/73.[**Numeric Identifier **]/34/2
   Ve: 5.7 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Wheezes : bilateral, occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities:  BL LE Edema 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   245 K/uL
   13.3 g/dL
   204 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.9 mEq/L
   20 mg/dL
   101 mEq/L
   137 mEq/L
   41.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2178-1-25**]  09:02 PM
                             [**2178-1-26**]  02:54 AM
   WBC
   8.9
   Hct
   41.9
   Plt
   245
   Cr
   0.9
   TropT
   <0.01
   TCO2
   30
   Glucose
   271
   204
   Other labs: PT / PTT / INR:12.5/27.7/1.1, CK / CKMB /
   Troponin-T:244/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   75F h/o COPD on home O2, DM2 p/w AMS and SOB.
   .
   # Hypercarbic respiratory failure:  Likely multifactorial of COPD and
   CHF, although no previous diagnosis of CHF and BNP not elevated.   CTA
   negative for PE
   - Recheck Echo today
   - Diurese with 20mg of IV lasix X1 and follow UOP and pressure closely,
   can switch to insulin drip if not tolerating bolus
   - Solumedrol started yesterday, will switch to prednisone today given
   CHF more likely component
   - Discontinue azithromycin given no evidence of infection, will restart
   if leukocytosis or fever
   .
   # AMS: Due to hypercarbia, possible other underlying infectious or
   toxic-metabolic cause contributing. Head CT negative.
   - Treat hypercarbia per above
   - Consider further w/u should not improve
   .
   # DM2: RISS, close monitoring while on steroids.
   .
   # HTN: Continue verapamil.  Will hold for hypotension
   .
   # FEN: NPO consider tube feeds if patient remains intubated, replete
   'lytes prn
   # PPX: heparin sc tid, PPI, bowel regimen
   # Code: FULL
   # Dispo: deferred
   # Communication: [**First Name8 (NamePattern2) 1479**] [**Known lastname 3243**] (daughter) [**Telephone/Fax (1) 3244**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-1-25**] 08:33 PM
   20 Gauge - [**2178-1-25**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-01-27 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2178-1-26**] 08:37 AM
 EKG - At [**2178-1-26**] 09:33 AM
   [**2178-1-26**]
   Unable to tolerate PS, SBI poor
   Advance ET tube by 2 cm in AM if remains intubated
   Diuresis with lasix to facilitate weaning
   TF held after midnight for possible extubation
   Bigeminy overnight-check lytes, repleat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2178-1-25**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-1-26**] 04:15 PM
   Furosemide (Lasix) - [**2178-1-26**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2178-1-26**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-27**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 99 (82 - 102) bpm
   BP: 127/45(67) {103/45(63) - 141/61(77)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    687 mL
                                                                    116 mL
   PO:
             TF:
                                                                     57 mL
   IVF:
                                                                    310 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    660 mL
   Urine:
                                                                  2,465 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,778 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (240 - 358) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.30/74/62/36/6
   Ve: 7.7 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Wheezes : bilateral, occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities:  BL LE Edema 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   227 K/uL
   13.3 g/dL
   173 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   23 mg/dL
   95 mEq/L
   139 mEq/L
   40.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2178-1-25**]  09:02 PM
                             [**2178-1-26**]  02:54 AM
                             [**2178-1-26**]  06:40 AM
                             [**2178-1-26**]  05:56 PM
                             [**2178-1-26**]  06:59 PM
                             [**2178-1-27**]  03:00 AM
   WBC
   8.9
   12.6
   Hct
   41.9
   40.6
   Plt
   245
   227
   Cr
   0.9
   0.9
   1.0
   TropT
   <0.01
   TCO2
   30
   35
   38
   Glucose
   271
   204
   152
   173
   Other labs: PT / PTT / INR:12.5/27.7/1.1, CK / CKMB /
   Troponin-T:244/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75F h/o COPD on home O2, DM2 p/w AMS and SOB.
   .
   # Hypercarbic respiratory failure:  Likely multifactorial of COPD and
   CHF, although no previous diagnosis of CHF and BNP not elevated, and
   echo showed normal EF with evidence of diastolic dysfunction.   Likely
   patient may have had flash pulmonary edema which caused respiratory
   failure.  CTA negative for PE
   - Diuresed with 20mg of IV lasix X2 yesterday with good UOP, negative
   2L
   - will repeat bolus today with lasix 20mg and follow UOP with goal of
   another 2L out today
   - Continue prednisone
   - Restarted azithromycin given increased secretions, increased WBC and
   failed SBT
   .
   # AMS: improved.  Due to hypercarbia, possible other underlying
   infectious or toxic-metabolic cause contributing. Head CT negative.
   - Treat hypercarbia per above
   .
   # DM2: RISS, close monitoring while on steroids.
   .
   # HTN: Continue verapamil.  Will hold for hypotension
   .
   # FEN: NPO tube feeds, however patient continues to pull OG and NG
   tubes, replete 'lytes prn
   .
   # PPX: heparin sc tid, PPI, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU while intubated
   .
   # Communication: [**First Name8 (NamePattern2) 1479**] [**Known lastname 3243**] (daughter) [**Telephone/Fax (1) 3244**]
 .H/O VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 DIABETES MELLITUS (DM), TYPE II
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-1-25**] 08:33 PM
   20 Gauge - [**2178-1-25**] 08:36 PM
   Prophylaxis:
   DVT:  heparin sc tid
   Stress ulcer: ppi
   Communication:  Comments:
   Code status:  full code
   Disposition:  micu

2178-01-28 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Repeatedly removed OG tube requiring greater sedation and OG tube
   replacement.  Zyprexa 2.5mg & Lasix 40mg IV given. FiO2 increased given
   PO2 of 57.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2178-1-25**] 08:30 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2178-1-27**] 01:00 PM
   Lansoprazole (Prevacid) - [**2178-1-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-1-27**] 10:15 PM
   Furosemide (Lasix) - [**2178-1-28**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 86 (86 - 120) bpm
   BP: 107/58(68) {95/41(57) - 154/81(96)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    672 mL
                                                                     92 mL
   PO:
             TF:
   IVF:
                                                                    332 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    910 mL
   Urine:
                                                                  2,225 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,553 mL
                                                                   -818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (186 - 458) mL
   PS : 12 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.45/61/57/40/14
   Ve: 4.3 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Wheezes : bilateral, occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities:  BL LE Edema 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   217 K/uL
   14.4 g/dL
   168 mg/dL
   0.9 mg/dL
   40 mEq/L
   5.1 mEq/L
   22 mg/dL
   94 mEq/L
   139 mEq/L
   42.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2178-1-25**]  09:02 PM
                             [**2178-1-26**]  02:54 AM
                             [**2178-1-26**]  06:40 AM
                             [**2178-1-26**]  05:56 PM
                             [**2178-1-26**]  06:59 PM
                             [**2178-1-27**]  03:00 AM
                             [**2178-1-27**]  05:09 PM
                             [**2178-1-28**]  01:13 AM
                             [**2178-1-28**]  03:24 AM
   WBC
   8.9
   12.6
   11.8
   Hct
   41.9
   40.6
   42.7
   Plt
   245
   227
   217
   Cr
   0.9
   0.9
   1.0
   0.8
   0.9
   TropT
   <0.01
   TCO2
   30
   35
   38
   44
   Glucose
   271
   204
   152
   173
   216
   168
   Other labs: PT / PTT / INR:12.5/27.7/1.1, CK / CKMB /
   Troponin-T:244/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   75F h/o COPD on home O2, DM2 p/w AMS and SOB.
   .
   # Hypercarbic respiratory failure:  Likely multifactorial of COPD and
   CHF, although no previous diagnosis of CHF and BNP not elevated, and
   echo showed normal EF with evidence of diastolic dysfunction.   Likely
   patient may have had flash pulmonary edema which caused respiratory
   failure.  CTA negative for PE
   - Diuresed with 20mg of IV lasix X2 yesterday with good UOP, negative
   2L
   - will repeat bolus today with lasix 20mg and follow UOP with goal of
   another 2L out today
   - Continue prednisone
   - Restarted azithromycin given increased secretions, increased WBC and
   failed SBT
   .
   # AMS: improved.  Due to hypercarbia, possible other underlying
   infectious or toxic-metabolic cause contributing. Head CT negative.
   - Treat hypercarbia per above
   .
   # DM2: RISS, close monitoring while on steroids.
   .
   # HTN: Continue verapamil.  Will hold for hypotension
   .
   # FEN: NPO tube feeds, however patient continues to pull OG and NG
   tubes, replete 'lytes prn
   .
   # PPX: heparin sc tid, PPI, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU while intubated
   .
   # Communication: [**First Name8 (NamePattern2) 1479**] [**Known lastname 3243**] (daughter) [**Telephone/Fax (1) 3244**]
 .H/O VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 DIABETES MELLITUS (DM), TYPE II
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-1-25**] 08:33 PM
   20 Gauge - [**2178-1-25**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-01-29 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-1-28**] 08:06 AM
   - Plan to go to [**Hospital **] Rehab today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-1-27**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-1-27**] 06:08 AM
   Vancomycin - [**2178-1-27**] 07:58 AM
   Ampicillin - [**2178-1-27**] 08:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-1-28**] 08:02 AM
   Furosemide (Lasix) - [**2178-1-28**] 03:20 PM
   Heparin Sodium (Prophylaxis) - [**2178-1-28**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 62 (57 - 91) bpm
   BP: 120/66(79) {112/49(65) - 147/83(100)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59.2 kg (admission): 54.1 kg
             Total In:
                                                                  1,427 mL
                                                                    397 mL
   PO:
             TF:
                                                                    957 mL
                                                                    325 mL
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,067 mL
                                                                    470 mL
   Urine:
                                                                  2,057 mL
                                                                    470 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 2,501 (2,501 - 2,501) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain,
   follows commands
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No edema
   Neuro: Awake possibly following commands
   Labs / Radiology
   245 K/uL
   9.1 g/dL
   130 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.6 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2178-1-23**]  03:25 PM
                             [**2178-1-23**]  05:21 PM
                             [**2178-1-24**]  03:19 AM
                             [**2178-1-24**]  05:01 PM
                             [**2178-1-25**]  04:42 AM
                             [**2178-1-26**]  03:53 AM
                             [**2178-1-27**]  04:18 AM
                             [**2178-1-27**]  04:52 PM
                             [**2178-1-28**]  02:44 AM
                             [**2178-1-29**]  04:01 AM
   WBC
   6.5
   6.6
   6.2
   5.1
   6.2
   5.0
   Hct
   26.2
   26.6
   26.4
   28.4
   28.1
   26.3
   Plt
   [**Telephone/Fax (3) 3305**]79
   303
   245
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   1.2
   1.2
   1.1
   0.9
   TCO2
   31
   Glucose
   142
   139
   140
   103
   103
   86
   92
   99
   130
   Other labs: PT / PTT / INR:14.7/31.9/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**1-6**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA.
   # Respiratory Failure: [**2-23**] to aspiration PNA. Improve aeration on CXR.
   Completed course of Vanc/Zosyn/Cipro day #8. Afebrile with leukocytosis
   resolved.
   -Trach yesterday, currently on collar and stable on 3 L.
   # ARF: Resolved.  UOP improved and metabolic alkalosis resolved.
   - Maintain goal of -2L daily
   - Lasix 40mg IV today, to be reassessed daily
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 26
   - guaiac stool, prn
   # FEN:  On tube feeds; replete electrolytes prn; PICC line for access
   Chief Complaint:
   24 Hour Events:
   - Pt's 02 sats range between 88 to low 90s on 3L overnight and she was
   comfortable
   - BG up to 400's after getting juice, covered with sliding scale, will
   resume oral meds in AM
   - Added mucinex for cough, likely chronic bronchitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-1-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-1-28**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 85 (73 - 99) bpm
   BP: 114/53(65) {93/33(51) - 135/67(81)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,280 mL
                  PO:
                                                                    990 mL
                  TF:
   IVF:
                                                                    190 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    595 mL
   Urine:
                                                                  1,585 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (325 - 360) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///39/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   13.1 g/dL
   156 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.5 mEq/L
   23 mg/dL
   95 mEq/L
   140 mEq/L
   38.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-1-26**]  02:54 AM
                             [**2178-1-26**]  06:40 AM
                             [**2178-1-26**]  05:56 PM
                             [**2178-1-26**]  06:59 PM
                             [**2178-1-27**]  03:00 AM
                             [**2178-1-27**]  05:09 PM
                             [**2178-1-28**]  01:13 AM
                             [**2178-1-28**]  03:24 AM
                             [**2178-1-29**]  03:08 AM
                             [**2178-1-29**]  04:43 AM
   WBC
   8.9
   12.6
   11.8
   6.5
   Hct
   41.9
   40.6
   42.7
   38.8
   Plt
   245
   227
   217
   190
   Cr
   0.9
   0.9
   1.0
   0.8
   0.9
   0.9
   TropT
   <0.01
   TCO2
   35
   38
   44
   Glucose
   [**Telephone/Fax (2) 3306**]
   Other labs: PT / PTT / INR:12.5/27.7/1.1, CK / CKMB /
   Troponin-T:244/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 DIABETES MELLITUS (DM), TYPE II
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-1-25**] 08:33 PM
   20 Gauge - [**2178-1-25**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Fibersource HN ([**1-25**]) - [**2178-1-29**] 12:57 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-1-13**] 09:35 AM
   20 Gauge - [**2178-1-27**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-01-29 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt's 02 sats range between 88 to low 90s on 3L overnight and she was
   comfortable
   - BG up to 400's after getting juice, covered with sliding scale, will
   resume oral meds in AM
   - Added mucinex for cough, likely chronic bronchitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-1-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-1-28**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-29**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 85 (73 - 99) bpm
   BP: 114/53(65) {93/33(51) - 135/67(81)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,280 mL
                  PO:
                                                                    990 mL
                  TF:
   IVF:
                                                                    190 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    595 mL
   Urine:
                                                                  1,585 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (325 - 360) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///39/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Wheezes : bilateral, occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities:  BL LE Edema 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   190 K/uL
   13.1 g/dL
   156 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.5 mEq/L
   23 mg/dL
   95 mEq/L
   140 mEq/L
   38.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-1-26**]  02:54 AM
                             [**2178-1-26**]  06:40 AM
                             [**2178-1-26**]  05:56 PM
                             [**2178-1-26**]  06:59 PM
                             [**2178-1-27**]  03:00 AM
                             [**2178-1-27**]  05:09 PM
                             [**2178-1-28**]  01:13 AM
                             [**2178-1-28**]  03:24 AM
                             [**2178-1-29**]  03:08 AM
                             [**2178-1-29**]  04:43 AM
   WBC
   8.9
   12.6
   11.8
   6.5
   Hct
   41.9
   40.6
   42.7
   38.8
   Plt
   245
   227
   217
   190
   Cr
   0.9
   0.9
   1.0
   0.8
   0.9
   0.9
   TropT
   <0.01
   TCO2
   35
   38
   44
   Glucose
   [**Telephone/Fax (2) 3306**]
   Other labs: PT / PTT / INR:12.5/27.7/1.1, CK / CKMB /
   Troponin-T:244/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   75F h/o COPD on home O2, DM2 p/w AMS and SOB.
   .
   # Hypercarbic respiratory failure:  Likely multifactorial of COPD and
   CHF, although no previous diagnosis of CHF and BNP not elevated, and
   echo showed normal EF with evidence of diastolic dysfunction.   Likely
   patient may have had flash pulmonary edema which caused respiratory
   failure.  CTA negative for PE
   - Diuresed with 20mg of IV lasix X4 with good UOP, negative 2L x2 days
   - Will be able to extubate today as tolerating SBT for two hours
   - Continue prednisone
   - Continue azithromycin for total of 5 days
   .
   # AMS: improved.  Due to hypercarbia, possible other underlying
   infectious or toxic-metabolic cause contributing. Head CT negative.
   - Treat hypercarbia per above
   .
   # DM2: RISS, close monitoring while on steroids.
   .
   # HTN: Continue verapamil.  Will hold for hypotension
   .
   # FEN:  will start reg diet when extubated, replete 'lytes prn
   .
   # PPX: heparin sc tid, PPI, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU while intubated
   .
   # Communication: [**First Name8 (NamePattern2) 1479**] [**Known lastname 3243**] (daughter) [**Telephone/Fax (1) 3244**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-1-25**] 08:33 PM
   20 Gauge - [**2178-1-25**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: